US04963590
3,4-Dihydroxy-5-nitrophenylalanine hydrobromide
A solution containing 1.2 g of 4-hydroxy-3-methoxy-5-nitrophenylalanine hydrosulfate in 10 ml of conc. hydrobromic acid was refluxed for 2 h. The solution was concentrated in vacuo and allowed to stand over night in a refrigerator. The product was filtered and washed with hydrobromic acid and dried. Yield 0.25 g, m.p. 170° C. (decomp.).

reactant | 4-hydroxy-3-methoxy-5-nitrophenylalanine | 1.2 g | OC1=C(C=C(C[C@H](N)C(=O)O)C=C1[N+](=O)[O-])OC | C10H12N2O6
reactant | hydrobromic acid | 10 ml | Br | BrH
product | 3,4-Dihydroxy-5-nitrophenylalanine hydrobromide | Br.OC=1C=C(C[C@H](N)C(=O)O)C=C(C1O)[N+](=O)[O-] | InChI=1S/C9H10N2O6.BrH/c10-5(9(14)15)1-4-2-6(11(16)17)8(13)7(12)3-4;/h2-3,5,12-13H,1,10H2,(H,14,15);1H/t5-;/m0./s1
